US08937092B2
To a solution of 2-(4-nitrobenzyl)isoindoline-1,3-dione (1.6 g, 5.33 mmol) in tetrahydrofuran was added hydrazine monohydrate (4 eq). The mixture was refluxed for 6 h. After cooling down to room temperature the mixture was treated with potassium bicarbonate to pH 12˜13, extracted with ethyl acetate and washed with brine. Drying over magnesium sulfate, evaporation of the ethyl acetate and purification by column chromatography gave (4-nitrophenyl)methanamine (592 mg, 65%).

reactant | 2-(4-nitrobenzyl)isoindoline-1,3-dione | 5.33 mmol, 1.6 g | [N+](=O)([O-])C1=CC=C(CN2C(C3=CC=CC=C3C2=O)=O)C=C1 | C15H10N2O4
reactant | hydrazine monohydrate | 4 eq | O.NN
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (4-nitrophenyl)methanamine | 592 mg, 65% | [N+](=O)([O-])C1=CC=C(C=C1)CN | C7H8N2O2
